US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-dibenzylamide
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were added portionwise at room temperature, while stirring, to a solution of 22 g of dibenzylamine and 20 g of triethylamine in 0.2 l of tetrahydrofurane. Subsequently the reaction mixture was heated for another hour under reflux, and then the tetrahydrofurane was eliminated in vacuo. The amorphous residue was dispersed in 0.5 l of acetic ester and 0.5 l of 1N NaOH. The acetic ester phase was separated and was dried over magnesium sulfate. The acetic ester solution was then concentrated to half its volume and was mixed with the same volume of petroleum ether under heat. Upon trituration the final product crystallized and was suction-filtered after having been cooled with ice water for 1 hour.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | dibenzylamine | 22 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 0.2 l | O1CCCC1 | C4H8O
solvent | NaOH | 1N, 0.5 l | [OH-].[Na+]
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-dibenzylamide | C(C1=CC=CC=C1)N(C(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O)CC1=CC=CC=C1 | C28H34N4O3S
